US04344945
1-Benzyl-4-(3,4-dihydro-2,2-dioxo-2,1,3-benzothiadiazin-1-yl)-piperidine monohydrochloride
In this reference example, 33.0 g (112.4 m.mols) of 1-benzyl-4-[N-(o-aminomethylphenyl)-amino]-piperidine, 21.6 g (224.8 m.mols) of sulfuryl amide and 250 ml of pyridine are mixed and refluxed with heating for 8 hours. The reaction solution is cooled to room temperature, concentrated to 70 ml and poured into 500 ml of ice water. The mixture is mixed with 300 ml of chloroform, stirred and adjusted to pH 9 with 2 N aqueous sodium hydroxide. The chloroform layer is separated with separating funnel and the remaining water layer is further extracted with chloroform (300 ml×3). The chloroform layers are combined, washed with water (300 ml×4), dried and concentrated to obtain an oily residue. This residue is dissolved in 150 ml of ethanol. To the solution, 50 ml of 5.7 N hydrogen chloride in ethyl acetate is added. The resultant solution is concentrated under reduced pressure. The crystalline residue is mixed with 50 ml of ethanol and filtered to obtain 29.0 g of the desired product. This compound is tested for NMR after it has been freed from hydrochloric acid, and it is tested for IR in its unaltered form of hydrochloride.

reactant | 1-benzyl-4-[N-(o-aminomethylphenyl)-amino]-piperidine | 33.0 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(C=CC=C1)CN | C19H25N3
reactant | sulfuryl amide | 21.6 g | S(=O)(=O)=[N-]
reactant | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrogen chloride | 5.7 N, 50 ml | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Benzyl-4-(3,4-dihydro-2,2-dioxo-2,1,3-benzothiadiazin-1-yl)-piperidine monohydrochloride | 29.0 g | Cl.C(C1=CC=CC=C1)N1CCC(CC1)N1S(NCC2=C1C=CC=C2)(=O)=O | InChI=1S/C19H23N3O2S.ClH/c23-25(24)20-14-17-8-4-5-9-19(17)22(25)18-10-12-21(13-11-18)15-16-6-2-1-3-7-16;/h1-9,18,20H,10-15H2;1H
